US04022900
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline was reacted with 2-bromobenzoyl chloride according to the procedure of Example 19 to yield 5-(2-bromobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline; m.p. 206.5°-208.5° C. after purification from ethanol.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 2-bromobenzoyl chloride | BrC1=C(C(=O)Cl)C=CC=C1 | C7H4BrClO
product | 5-(2-bromobenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | BrC1=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C=CC=C1 | C17H17BrN2O
